US08466176B2
A solution of N-[(2-bromo-1,3-thiazol-4-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenyl-methanimine (190 mg, 0.50 mmol), benzyl propargyl ether (149 mg, 1.00 mmol), copper(I) iodide (9.5 mg, 0.05 mmol), tetrakis(triphenylphosphine)palladium(0) (28.9 mg, 0.02 mmol), N,N-diisopropylethylamine (258 mg, 2.0 mmol) in degassed tetrahydrofuran (2.5 mL) was stirred under an Argon atmosphere at 50° C. for 14 h. After the addition of diethylether (2 mL) the suspension was filtered over a pad of silica gel and the filtrate was concentrated in vacuo. Purification on silica gel afforded N-({2-[3-(benzyloxy)prop-1-yn-1-yl]-1,3-thiazol-4-yl}methoxy)-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine as a thick oil (144 mg, yield 62%).

reactant | N-[(2-bromo-1,3-thiazol-4-yl)methoxy]-1-(1-methyl-1H-tetrazol-5-yl)-1-phenyl-methanimine | 0.50 mmol, 190 mg | BrC=1SC=C(N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C13H11BrN6OS
reactant | benzyl propargyl ether | 1.00 mmol, 149 mg | C(C#C)OCC1=CC=CC=C1 | C10H10O
reactant | N,N-diisopropylethylamine | 2.0 mmol, 258 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diethylether | 2 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 0.05 mmol, 9.5 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 28.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-({2-[3-(benzyloxy)prop-1-yn-1-yl]-1,3-thiazol-4-yl}methoxy)-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 144 mg, yield 62% | C(C1=CC=CC=C1)OCC#CC=1SC=C(N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C23H20N6O2S
